US04845122
Under a nitrogen atmosphere, a solution of bromine (1.16 ml, 22.59 mmol) in 17 ml of acetic acid containing a small crystal of iodine was added over 2.5 hours to a solution of acetoacetanilide (4.0 g, 22.57 mmol) in 12 ml of acetic acid, at room temperature (cooling with cold water). The reaction mixture was stirred at room temperature for 3 hours, then poured into 100 ml of ice-cold water and the crude solid product was filtered off. Following crystallization from ethanol, 3.30 g of 4-bromoacetoacetanilide were obtained, m.p 130°-132° C.

reactant | bromine | 22.59 mmol, 1.16 ml | BrBr | Br2
reactant | iodine | II | I2
reactant | acetoacetanilide | 22.57 mmol, 4.0 g | C(CC(=O)C)(=O)NC1=CC=CC=C1 | C10H11NO2
reactant | water | O | H2O
solvent | acetic acid | 17 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | 4-bromoacetoacetanilide | 3.30 g | BrCC(CC(=O)NC1=CC=CC=C1)=O | C10H10BrNO2
